US06194406B1
1-(2-Methoxy-5-cyanobenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 56.1 using 2-methoxy-5-cyanobenzoic acid and 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-(2-hydroxyethyl)-3-phenylpyrrolidine(R,R)-di-p-anisoyltartaric acid salt) to give the title compound.

reactant | 2-methoxy-5-cyanobenzoic acid | COC1=C(C(=O)O)C=C(C=C1)C#N | C9H7NO3
reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
product | 1-(2-Methoxy-5-cyanobenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)C#N | C37H44N6O3
